US05344843
As in Example 19, (E)-4-[3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester (0.354 g) in methanol (5 mL) was treated with 1N sodium hydroxide (0.9 mL). The usual work up gave 0.4 g of a oil, which was dissolved in diethyl ether and morpholine (0.07 g) was added. Crystallization was induced and the recovered solid was recrystallized from dichloromethane-ethyl acetate to provide 0.26 g of (E)-4-[3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indole-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid (1:1) morpholine salt as a colorless solid, mp 151°-152° C.

reactant | (E)-4-[3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indol-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid methyl ester | 0.354 g | COC(C(C1=CC=C(C=C1)OC\C=C\C=1N(C2=CC=CC=C2C1C1=CC=C(C=C1)F)C(C)C)=O)=O | C29H26FNO4
reactant | sodium hydroxide | 1N, 0.9 mL | [OH-].[Na+]
reactant | morpholine | 0.07 g | N1CCOCC1 | C4H9NO
solvent | methanol | 5 mL | CO | CH4O
solvent | diethyl ether | C(C)OCC | C4H10O
product | (E)-4-[3-[3-(4-fluorophenyl)-1-(1-methylethyl)-1H-indole-2-yl]-2-propenyloxy]-alpha-oxobenzeneacetic acid | 0.26 g | FC1=CC=C(C=C1)C1=C(N(C2=CC=CC=C12)C(C)C)/C=C/COC1=CC=C(C=C1)C(C(=O)O)=O | C28H24FNO4
